US07008950B1
1-(2,5-Dimethoxy-3,4,6-trimethylphenyl)-2-methyl-1-[4-(4-morpholinyl)phenyl]propan-1-ol
n-Butyllithium (1.6 M, 18.1 mL, 29.0 mmol) was added to a solution of 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene (7.52 g, 29.0 mmol) in tetrahydrofuran (50 mL) at −78° C., and the mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added 2-methyl-1-[4-(4-morpholinyl)phenyl] propan-1-one (6.15 g, 26.4 mmol), and the mixture was stirred for 30 minutes at room temperature. Water (40 mL) was poured into the reaction mixture, which was then extracted three times with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from ethanol to obtain the title compound (8.40 g, yield 90%).

reactant | n-Butyllithium | 29.0 mmol, 1.6 M, 18.1 mL | C(CCC)[Li]
reactant | 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene | 29.0 mmol, 7.52 g | BrC1=C(C(=C(C(=C1C)OC)C)C)OC | C11H15BrO2
reactant | 2-methyl-1-[4-(4-morpholinyl)phenyl] propan-1-one | 26.4 mmol, 6.15 g | CC(C(=O)C1=CC=C(C=C1)N1CCOCC1)C | C14H19NO2
reactant | Water | 40 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(2,5-Dimethoxy-3,4,6-trimethylphenyl)-2-methyl-1-[4-(4-morpholinyl)phenyl]propan-1-ol | 8.40 g, yield 90% | COC1=C(C(=C(C(=C1C)C)OC)C)C(C(C)C)(O)C1=CC=C(C=C1)N1CCOCC1 | C25H35NO4
